US06982260B1
2-Cyclopentyl-6-hydroxymethylene-3-methoxy-cyclohex-2-enone
To a suspension of sodium hydride (2.04 g, 60% suspension, 51 mmol) in benzene (100 mL), a mixture of ethyl formate (6.7 g) and 2-cyclopentyl-3-methoxycyclohex-3-en-1-one (2.82 g, 17 mmol) in benzene was added dropwise at 5° C. The reaction mixture was stirred at ice temperature for 1 hour and 18 hours at room temperature. The reaction mixture was cooled in ice bath, and 200 mL of 10% sodium hydrogen phosphate solution was added dropwise. The organic layer was separated, and aqueous layer was extracted with ethyl acetate (2×50 mL). Combined organic extract was washed with brine and dried over anhydrous sodium sulfate. Solvent was removed in vacuo and the resulting product was purified on a column of silica gel (Hex:EtOAc) to give the title compound as a viscous liquid (2 g, 60%).

reactant | sodium hydride | 51 mmol, 2.04 g | [H-].[Na+]
reactant | ethyl formate | 6.7 g | C(=O)OCC | C3H6O2
reactant | 2-cyclopentyl-3-methoxycyclohex-3-en-1-one | 17 mmol, 2.82 g | C1(CCCC1)C1C(CCC=C1OC)=O | C12H18O2
reactant | sodium hydrogen phosphate | 200 mL | P(=O)(O)([O-])[O-].[Na+].[Na+]
solvent | benzene | 100 mL | C1=CC=CC=C1 | C6H6
product | 2-Cyclopentyl-6-hydroxymethylene-3-methoxy-cyclohex-2-enone | 2 g, 60% | C1(CCCC1)C=1C(C(CCC1OC)=CO)=O | C13H18O3
